US04558043
A solution of 250 mg (1.00 mmole) of crude 5-chloro-2-hydroxy-6-(piperidin-1-yl)-2,3-dihydrobenzofuran in 2.5 g of polyphosphoric acid is maintained at 60° for 20 minutes, then ice and water are added and the whole is adjusted to pH 7 with solid sodium carbonate. The reaction mixture is extracted twice with methylene chloride. The organic phases are washed with water, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. The residue is chromatographed over silica gel using methylene chloride as eluant (Rf =0.63). In that manner, 5-chloro-6-(piperidin-1-yl)-benzofuran is obtained in the form of an oil which distills at 96°-97°/1.5 torr.

reactant | 5-chloro-2-hydroxy-6-(piperidin-1-yl)-2,3-dihydrobenzofuran | 1.00 mmole, 250 mg | ClC=1C(=CC2=C(CC(O2)O)C1)N1CCCCC1 | C13H16ClNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 5-chloro-6-(piperidin-1-yl)-benzofuran | ClC=1C(=CC2=C(C=CO2)C1)N1CCCCC1 | C13H14ClNO
